US05234931
e. 3-(6-Fluoro-1,2-benzisoxazol-3-yl)-8-azabicyclo[3.2.1]octane hydrochloride
Vinyl chloroformate (2.9 g) was added dropwise to a solution of 3-(6-fluoro-1,2-benzisoxazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane (5.6 g) and potassium carbonate (3.6 g) in 125 ml of 1,2-dichloroethane at 0° C. The resulting suspension was heated at reflux for 3 hours, the solution was cooled, and the solvent was removed in vacuo. The residue was suspended in 125 mL of ethanol and acidified with HCl in ethanol (to about a pH of 1), and the mixture was heated at reflux for 2 hours. The mixture was cooled, and 3.6 g of 3-(6-fluoro-1,2-benzisoxazol-3-yl)-8-azabicyclo[3.2.1]octane hydrochloride, m.p. 248°-250° C., crystallized out of solution.

reactant | Vinyl chloroformate | 2.9 g | ClC(=O)OC=C | C3H3ClO2
reactant | 3-(6-fluoro-1,2-benzisoxazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane | 5.6 g | FC1=CC2=C(C(=NO2)C2CC3CCC(C2)N3C)C=C1 | C15H17FN2O
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 125 ml | ClCCCl | C2H4Cl2
product | 3-(6-Fluoro-1,2-benzisoxazol-3-yl)-8-azabicyclo[3.2.1]octane hydrochloride | Cl.FC1=CC2=C(C(=NO2)C2CC3CCC(C2)N3)C=C1 | InChI=1S/C14H15FN2O.ClH/c15-9-1-4-12-13(7-9)18-17-14(12)8-5-10-2-3-11(6-8)16-10;/h1,4,7-8,10-11,16H,2-3,5-6H2;1H
